US06903215B2
A solution of 700 mg (3.4 mmol) of 1,1,1-trifluoro-4-pyridin-2-ylbutan-2-ol in 10 mL of dichloromethane was treated with 616 mg (4.1 mmol, 1.2 eq.) of tert-butyldimethylsilyl chloride, 697 mg (10.2 mmol, 3.0 eq.) of imidazole and 415 ng (3.4 mmol) of 4-dimethylaminopyridine at 0° C. The resulting mixture was allowed to warm to room temperature and was stirred for 36 hours. Then the mixture was concentrated and the residue was purified by flash chromatography to give 970 mg (89%) of 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluorobutyl]pyridine as a colorless oil.

reactant | 1,1,1-trifluoro-4-pyridin-2-ylbutan-2-ol | 3.4 mmol, 700 mg | FC(C(CCC1=NC=CC=C1)O)(F)F | C9H10F3NO
reactant | tert-butyldimethylsilyl chloride | 4.1 mmol, 616 mg, 1.2 eq. | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 10.2 mmol, 697 mg, 3.0 eq. | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.4 mmol, 415 ng | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluorobutyl]pyridine | 970 mg, 89% | [Si](C)(C)(C(C)(C)C)OC(CCC1=NC=CC=C1)C(F)(F)F | C15H24F3NOSi
